US04897420
trans-6-(4-Hydroxycyclohexyl)hexanoic acid (5 g) is dissolved in acetic anhydride (25 ml), and p-toluenesulfonic acid (10 mg) is added to the solution. The mixture is stirred at 60° to 70° C. for an hour. The excess acetic anhydride is distilled off under reduced pressure and, after addition of water, the mixture is stirred at room temperature for 24 hours and then at 50° to 60° C. for further 5 hours and poured into ice-water. The resulting crystalline precipitate is recrystallized from ethanol-water to give 4.93 g (82%) of trans-6-(4-acetoxycyclohexyl)hexanoic acid as colorless needles, m.p. 82°-86° C.

reactant | trans-6-(4-Hydroxycyclohexyl)hexanoic acid | 5 g | O[C@@H]1CC[C@H](CC1)CCCCCC(=O)O | C12H22O3
reactant | p-toluenesulfonic acid | 10 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | acetic anhydride | 25 ml | C(C)(=O)OC(C)=O | C4H6O3
product | trans-6-(4-acetoxycyclohexyl)hexanoic acid | 4.93 g, 82% | C(C)(=O)O[C@@H]1CC[C@H](CC1)CCCCCC(=O)O | C14H24O4
